US07342115B2
To a solution of (6-chloro-4-cyclopentoxy-2-methyl-pyridin-3-yl)-methanol (3.5 g, 14.5 mmol), a solution of thionyl chloride (2.0 M solution in methylene chloride, 72 mL, 144 mmol) is added, and the mixture is stirred for 2 hours at ambient temperature. All volatiles are removed in vacuo to afford 6-chloro-3-chloromethyl-4-cyclopentyloxy-2-methyl-pyridine hydrochloride salt as a white powder.

reactant | (6-chloro-4-cyclopentoxy-2-methyl-pyridin-3-yl)-methanol | 14.5 mmol, 3.5 g | ClC1=CC(=C(C(=N1)C)CO)OC1CCCC1 | C12H16ClNO2
reactant | thionyl chloride | 144 mmol, 2.0 M, 72 mL | S(=O)(Cl)Cl | Cl2OS
product | 6-chloro-3-chloromethyl-4-cyclopentyloxy-2-methyl-pyridine hydrochloride salt | Cl.ClC1=CC(=C(C(=N1)C)CCl)OC1CCCC1 | InChI=1S/C12H15Cl2NO.ClH/c1-8-10(7-13)11(6-12(14)15-8)16-9-4-2-3-5-9;/h6,9H,2-5,7H2,1H3;1H
